US08314098B2
(Step 3): N-{2-(4-Bromo-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine (Compound 16)
There was suspended, in ethanol (2 mL), 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (59.3 mg, 0.179 mM) and then potassium carbonate (27.2 mg, 0.197 mM) and hydrazine monohydrate (86.8 μL, 1.79 mM) were added to the suspension. This suspension was stirred at 150° C. for 20 minutes under the irradiation with microwaves. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined together, dried over anhydrous sodium sulfate and the solvent was then distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (21.1 μL, 0.179 mM) were added to the suspension and the mixture was stirred at room temperature for one hour. This reaction mixture was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to thus give the title compound (30.7 mg, overall yield of these two steps: 35%).

reactant | 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.179 mM, 59.3 mg | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C16H14BrClN4O
reactant | potassium carbonate | 0.197 mM, 27.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 1.79 mM, 86.8 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-{2-(4-Bromo-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)=C1 | C24H23BrN6O
